US05608056
To a solution of imidazole (1.52 in N,N-dimethylformamide (70 ml) were added potassium t-butoxide (2.51 g) and a solution of (2R,4R)-1-allyloxycarbonyl-2-(2-methanesulfonyloxyethyl)-4-(t-butyldimethylsilyloxy)pyrrolidine (8.3 g) in N,N-dimethylformamide (13 ml) at ambient temperature with stirring, and the mixture was stirred at about 60° C. for 1 hour. The reaction mixture was cooled with ice-cooling, and water and ethyl acetate were added thereto. After separation, the organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was purified by silica gel chromatography eluting with a mixture of chloroform and methanol (10:0.3, V/V) to give (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-(t-butyldimethylsilyloxy)pyrrolidine (11.11 g).

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | potassium t-butoxide | 2.51 g | CC(C)([O-])C.[K+]
reactant | (2R,4R)-1-allyloxycarbonyl-2-(2-methanesulfonyloxyethyl)-4-(t-butyldimethylsilyloxy)pyrrolidine | 8.3 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCOS(=O)(=O)C | C17H33NO6SSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-(t-butyldimethylsilyloxy)pyrrolidine | 11.11 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCN1C=NC=C1 | C19H33N3O3Si
